US05264593
Squalene Synthase Assay
Buffer mixture contains 270 mM HEPES, pH 7.5, 20 mM Potassium fluoride and 5.4 mM Dithiothreitol(DTT). 55 μl of this mixture was used per assay. The final concentrations of HEPES, KF and DTT in the assay are 150 mM, 11 mM and 3 mM respectively.

reactant | HEPES | 270 mM | C1CN(CCN1CCO)CCS(=O)(=O)O | C8H18N2O4S
reactant | Potassium fluoride | 20 mM, pH 7.5 | [F-].[K+]
reactant | DTT | C([C@H]([C@@H](CS)O)O)S | C4H10O2S2
product | Squalene | CC(C)=CCC\C(\C)=C\CC\C(\C)=C\CC\C=C(/C)\CC\C=C(/C)\CCC=C(C)C | C30H50
